US06329370B1
2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-benzaldehyde
In dry environment under N2, 2-(4-methoxy-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole (20 g, 0.097 mole), prepared as described in example 1, was dissolved in ethyl ether (200 ml) and added at −2° C. with n-butyl lithium (44 ml, 0.11 mole), keeping the temperature below 5° C. The mixture was stirred and after 4 hours added with DMF (15.4 g, 16.3 ml, 0.21 mole). After stirring overnight at room temperature, the mixture was cooled and extracted with water/ice. The aqueous phase was extracted again with ethyl ether. The organic phase was washed with water/NaCl, discoloured with charcoal, anhydrified and concentrated under vacuum to give 19 g of the title compound (yield: 84%). 1H-NMR (CDCl3) δ: 10.75(s,1H); 7.84-7.05(m,3H); 4.10(s,2H); 3.86(s,3H); 1.37(s,6H).

reactant | 2-(4-methoxy-phenyl)-4,4-dimethyl-4,5-dihydro-oxazole | 0.097 mole, 20 g | COC1=CC=C(C=C1)C=1OCC(N1)(C)C | C12H15NO2
reactant | n-butyl lithium | 0.11 mole, 44 ml | C(CCC)[Li]
reactant | DMF | 0.21 mole, 16.3 ml, 15.4 g | CN(C)C=O | C3H7NO
solvent | ethyl ether | 200 ml | C(C)OCC | C4H10O
product | 2-(4,4-Dimethyl-4,5-dihydro-oxazol-2-yl)-5-methoxy-benzaldehyde | 19 g, yield: 84% | CC1(N=C(OC1)C1=C(C=O)C=C(C=C1)OC)C | C13H15NO3
